US05886044
a) Preparation of 2-amino-4-fluorophenol
A mixture of 4-fluoro-2-nitrophenol(1 g, 4.64 mmol) and tin (II) chloride (5.4 g, 24.2 mmol) in ethanol (50 mL) was heated at 80° C. under argon. After 2 hours, the starting material had disappeared and the solution was allowed to cool down and then poured into ice. The pH is made slightly basic (pH7-8), by addition of solid NaOH, before being extracted with ethyl acetate. The organic phase was washed with brine, dried over MgSO4 and filtered. The solvent was evaporated and chromatography of the resulting solid on silica gel (4% MeOH/CH2Cl2) gave the desired product(622 mg, 85%). 1H NMR (CD3OD): δ 6.51 (dd, 1H), 6.32 (dd, 1H), 6.17 (ddd, 1H).

reactant | 4-fluoro-2-nitrophenol | 4.64 mmol, 1 g | FC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H4FNO3
reactant | tin (II) chloride | 24.2 mmol, 5.4 g | [Sn](Cl)Cl
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-amino-4-fluorophenol | 622 mg, 85% | NC1=C(C=CC(=C1)F)O | C6H6FNO
